US07091353B2
Methyl-3-[(Ethoxycarbonylamino)methyl]-2-(methoxycarbonyl)benzoate
Triethylamine (1.57 g, 18.5 mmol) was added to a stirred suspension of methyl-3-(aminomethyl)-2-(methoxycarbonyl)benzoate hydrochloride (2.0 g, 8 mmol) in dichloromethane (30 ml). The mixture was cooled in an ice bath to 4° C. Ethyl chloroformate (1.0 g, 9 mmol) was added slowly keeping the mixture at 4–6° C. After addition was complete, the mixture was stirred in an ice bath for 30 minutes and then warmed to room temperature for 2 hours. The mixture was washed with water (2×30 ml), brine (30 ml) and dried. Solvent was removed in vacuo and the residue was purified by flash chromatography (dichloromethane/ethyl acetate 95 to 5) to give 1.59 g (70%) of the product as an oil: 1H NMR (CDCl3) δ 7.87 (d, J=7.8 Hz, 1H), 7.36 (d, J=7.6 Hz, 1H), 7.46 (t, J=7.7 Hz, 1H), 5.30 (b, 1H), 4.32 (d, J=6.3 Hz, 2H), 4.12 (q, J=7.0 Hz, 2H), 3.93 (s, 3H), 3.89 (s, 3H), 1.22 (t, J=7.2 Hz, 3H).

reactant | Triethylamine | 18.5 mmol, 1.57 g | C(C)N(CC)CC | C6H15N
reactant | methyl-3-(aminomethyl)-2-(methoxycarbonyl)benzoate hydrochloride | 8 mmol, 2.0 g | Cl.COC(C1=C(C(=CC=C1)CN)C(=O)OC)=O
reactant | Ethyl chloroformate | 9 mmol, 1.0 g | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | Methyl-3-[(Ethoxycarbonylamino)methyl]-2-(methoxycarbonyl)benzoate | 1.59 g, 70% | COC(C1=C(C(=CC=C1)CNC(=O)OCC)C(=O)OC)=O | C14H17NO6
